US06432993B1
(19-1) t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[4-(imidazole-1-yl)phenoxy]phenyl}-N-methylcarbamate
In a similar manner to that described in Example (2-1), a reaction was carried out using t-butyl N-{2-amino-5-[4-(imidazole-1-yl)phenoxy]phenyl}-N-methylcarbamate (1.14 g), 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid (0.93 g), diethyl cyanophosphonate (0.54 g), triethylamine (0.33 g) and anhydrous tetrahydrofuran (30 ml) and the reaction mixture was purified to give the desired product (1.75 g).

reactant | t-butyl N-{2-amino-5-[4-(imidazole-1-yl)phenoxy]phenyl}-N-methylcarbamate | 1.14 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)N1C=NC=C1)N(C(OC(C)(C)C)=O)C | C21H24N4O3
reactant | 4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetic acid | 0.93 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.54 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.33 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | t-Butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[4-(imidazole-1-yl)phenoxy]phenyl}-N-methylcarbamate | 1.75 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)N2C=NC=C2)N(C(OC(C)(C)C)=O)C)C=C1 | C33H33N5O7S
